US07772245B2
To a solution of 1,2,3,4-tetrahydro-9H-pyrido[3,4-b]indole (250 mg, 1.460 mmol) in dry DMF (10 mL) were added 4-fluorobenzaldehyde (181 mg, 1.460 mmol) and CsF (266 mg, 1.752 mmol) and the reaction mixture was stirred at 65° C. for 5 hours. After completion, the reaction mixture was diluted with water (25 mL) and EtOAc (25 mL). The organic layer was separated and the aqueous layer was washed twice with EtOAc. The combined organic layers were dried over anhydrous sodium sulphate and concentrated under vacuum to provide the crude compound. It was then purified by column chromatography using silica gel to obtain 4-(1,3,4,9-tetrahydro-2H-b-carbolin-2-yl)benzaldehyde (125 mg). 1H NMR (CDCl3+DMSO-D6, 200 MHz) ppm: 9.93 (1H, bs), 9.74 (1H, s), 7.99 (1H, s), 7.76 (2H, d, J=8.8 Hz), 7.44 (1H, m), 7.32 (1H, m), 7.13-6.97 (3H, m), 4.61 (2H, s), 3.86 (2H, t, J=5.6 Hz), 2.93 (2H, m); m/e=277 (M+1).

reactant | 1,2,3,4-tetrahydro-9H-pyrido[3,4-b]indole | 1.460 mmol, 250 mg | C1NCCC2=C1NC1=CC=CC=C21 | C11H12N2
reactant | 4-fluorobenzaldehyde | 1.460 mmol, 181 mg | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | CsF | 1.752 mmol, 266 mg | [F-].[Cs+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | 25 mL | O | H2O
solvent | EtOAc | 25 mL | CCOC(=O)C | C4H8O2
product | 4-(1,3,4,9-tetrahydro-2H-b-carbolin-2-yl)benzaldehyde | 125 mg | C1N(CCC=2C3=CC=CC=C3NC12)C1=CC=C(C=O)C=C1 | C18H16N2O
